US07834009B2
A solution of 2-[(4-fluoro-benzylamino)-methyl]-5-methyl-hex-4-enoic acid ethyl ester (102 mg, 0.35 mmol), (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (115 mg, 0.345 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (69 mg, 0.36 mmol) in anhydrous N,N-dimethylformamide (5 mL) was treated with N-methylmorpholine. The reaction was stirred for 1 h at 25° C., diluted with a 1.0 M aqueous hydrochloric acid solution (20 mL), and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in ethanol (6 mL) and treated with a 60% oil dispersion of sodium hydride (41 mg, 1.74 mmol). The reaction was heated at 70° C. for 1 h, allowed to cool to 25° C., and quenched with a 1.0 M aqueous hydrochloric acid solution (50 mL). The resulting mixture was extracted with ethyl acetate (3×50 mL), and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude oil was purified by flash column chromatography (ISCO RediSep column, 10 to 80% ethyl acetate in hexanes) to give N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-but-2-enyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (90 mg, 46%) as a light yellow solid. 1H NMR (400 MHz, CDCl3) δ: 1.54 (s, 3H), 1.69 (s, 3H), 2.15-2.23 (m, 1H), 2.39-2.44 (m, 1H), 2.60-2.66 (m, 1H), 3.06 (s, 3H), 3.19 (dd, 1H, J1=13.1 Hz, J2=4.3 Hz), 3.45 (dd, 1H, J1=12.4 Hz, J2=5.4 Hz), 4.61 (s, 2H), 4.89 (t, 3H, J=6.6 Hz), 7.05 (t, 2H, J=8.5 Hz), 7.23-7.28 (m, 3H), 7.63-7.66 (m, 1H), 7.69 (d, 1H, J=2.2 Hz). LC-MS (ESI) calculated for C25H27FN4O6S2: 562.6, found 563.4 [M+H+].

reactant | 2-[(4-fluoro-benzylamino)-methyl]-5-methyl-hex-4-enoic acid ethyl ester | 0.35 mmol, 102 mg | C(C)OC(C(CC=C(C)C)CNCC1=CC=C(C=C1)F)=O | C17H24FNO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 0.345 mmol, 115 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.36 mmol, 69 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | sodium hydride | 1.74 mmol, 41 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1.0 M, 20 mL | Cl | ClH
product | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-but-2-enyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 90 mg, 46% | FC1=CC=C(CN2C(C(=C(C(C2)CC=C(C)C)O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C25H27FN4O6S2
